US03998829
21-Chloromethyl-3α-hydroxy-5α-pregnane-11,20-dione
3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione (500 mg) was dissolved in dioxan (40 ml) and dry hydrogen chloride passed through the solution for 1 hour. The mixture was left to stand for a further 2 hours, then poured into water and the sticky solid extracted into ether. The extracts were washed with saturated sodium bicarbonate, water and then dried over anhydrous sodium sulphate. After evaporation and trituration of the resulting foam with ether/petrol the title compound (375 mg) was obtained as a white solid. m.p. 110°-112° with gas evolution [α]D + 100° (c = 1.06).

reactant | 3α-Hydroxy-21-methylene-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 21-Chloromethyl-3α-hydroxy-5α-pregnane-11,20-dione | ClCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C22H33ClO3
